US03932181
Synthesis of 2,4,6-tribromophenoxy ethanol intermediate.
2,4,6-Tribromophenol (94.9 parts), ethylene oxide (14.7 parts) and tetramethylammonium chloride (2.0 parts) were charged into the same type of reactor as described in Example I. Reactants were heated to 95°-100° C. over 21/2 hours and allowed to react at this temperature for an additional 41/2 hours for the completion of reaction. The product was then dissolved in benzene, washed with water three times, dried with anhydrous sodium sulfate, filtered, and benzene stripped off under vacuum at 40° C. The final product was a slightly colored pasty material having a hydroxyl number of 150.

reactant | 2,4,6-Tribromophenol | BrC1=C(C(=CC(=C1)Br)Br)O | C6H3Br3O
reactant | ethylene oxide | C1CO1 | C2H4O
catalyst | tetramethylammonium chloride | [Cl-].C[N+](C)(C)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4,6-tribromophenoxy ethanol | BrC1=C(OC(C)O)C(=CC(=C1)Br)Br | C8H7Br3O2
